US06787560B2
3-(tert-Butyldimethylsiloxymethyl)benzylamine
Methylamine (a 30% ethanol solution, 400 mL) was added to a solution of 3-(tert-butyldimethylsiloxymethyl)benzylphthalimide (11.93 g, 31.3 mmol) in ethanol (200 mL) at room temperature, and the resulting mixture was stirred at room temperature for 5 minutes and then at 90° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with diethyl ether and stirred at room temperature for 30 minutes. The reaction solution was concentrated under reduced pressure at 20° C. and the residue was diluted with diethyl ether (300 mL), and ultrasonic waves were applied thereto for 1 hour. The resulting cloudy liquid was filtered and the filtrate was concentrated under reduced pressure at 20° C. to obtain the title compound (6.23 g, 79%) as a white solid.

reactant | Methylamine | CN | CH5N
reactant | 3-(tert-butyldimethylsiloxymethyl)benzylphthalimide | 31.3 mmol, 11.93 g | O([Si](C)(C)C(C)(C)C)CC=1C=C(CC2=C3C(C(=O)NC3=O)=CC=C2)C=CC1 | C22H27NO3Si
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-(tert-Butyldimethylsiloxymethyl)benzylamine | 6.23 g, 79% | O([Si](C)(C)C(C)(C)C)CC=1C=C(CN)C=CC1 | C14H25NOSi
